US06001867
[2,6-Dibromo-4-(dibenzothiophen-1-yl)-phenoxy]-acetic acid
To a solution of [2,6-dibromo-4-(dibenzothiophen-1-yl)-phenoxy]-acetic acid, ethyl ester (0.324 g, 0.623 mmol) in tetrahyodrofuran (15 mL) and methanol (5 mL) was added an aqueous solution of potassium hydroxide (1N, 0.75 mL, 0.75 mmol, 1.2 eq) dropwise at room temperature. After stirring 2.5 hours at room temperature the solvents were removed and the residue was combined with water (50 mL) and was acidified with 10% aqueous hydrochloric acid. After stirring 0.5 hours the white solid was filtered. Trituration with petroleum ether and recrystallization from aqueous acetic acid with hot filtration gave a white solid which was dried in vacuo at 100° C. for 5 hours to provide the title compound as a white solid: (0.155 g, 51%); mp 212-213° C.; NMR (DMSO-d6): δ 13.19 (broad s, 1H), 8.11 (dd, J=8, 1 Hz, 1H), 8.04 (dm, 1H), 7.78 (s, 2H), 7.55 (dd, J=8, 7 Hz, 1H), 7.45 (ddd, J=8, 7, 1 Hz, 1H), 7.31 (dd, J=7 Hz, 1H), 7.27 (ddd, J=8, 7, 1 Hz, 1H), 7.10 (dm, 1H), 4.67 (s, 2H); MS (+FAB): [M+], 2 bromine isotope pattern, 490 (61%), 492 (100%), 494 (57%); Anal. Calc. for C20H12Br2O3S: C, 48.81, H, 2.46, N, 0.00. Found: C, 48.99, H, 2.24, N, 0.07.

reactant | [2,6-dibromo-4-(dibenzothiophen-1-yl)-phenoxy]-acetic acid, ethyl ester | 0.623 mmol, 0.324 g | BrC1=C(OCC(=O)OCC)C(=CC(=C1)C1=CC=CC=2SC3=C(C21)C=CC=C3)Br | C22H16Br2O3S
reactant | potassium hydroxide | 0.75 mmol, 1N, 0.75 mL, 1.2 eq | [OH-].[K+]
solvent | methanol | 5 mL | CO | CH4O
product | [2,6-Dibromo-4-(dibenzothiophen-1-yl)-phenoxy]-acetic acid | BrC1=C(OCC(=O)O)C(=CC(=C1)C1=CC=CC=2SC3=C(C21)C=CC=C3)Br | C20H12Br2O3S
